US06660742B2
To a solution of 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl methanesulfonate (0.11 g, 0.17 mmol) in dry DMF (2 mL) was added LiCl (0.29 g, 6.94 mmol) at room temperature under N2 atmosphere and stirred for 3 days. The reaction mixture was diluted AcOEt (100 mL) and washed with H2O (20 mL) and saturated aqueous NaCl (10 mL), and then dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by silica-gel column (AcOEt:Petroleum ether=1:4) to yield as a white solid 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride (75 mg, 81%): mp 180-184° C.; 1H NMR (CDCl3, 500 MHz) δ 9.23 (s, 1H), 8.63 (s, 1H), 8.42 (d, 7.5, 1H), 7.84 (d, 8.5, 1H), 7.53-7.60 (m, 4H), 7.49 (t, 8.0, 1H), 7.44 (t, 7.0, 2H), 7.38 (t, 7.5, 1H), 6.99 (s, 1H), 6.88 (s, 1H), 5.29 (s, 2H), 4.10 (s, 3H), 4.05 (t, 6.0, 2H), 3.96 (s, 3H), 3.93 (s, 3H), 3.60 (t, 6.0, 2H); EIMS m/z 545 (M+); IR (neat) νmax 3271, 2932, 1722, 1634, 1592, 1537, 1503, 1464, 1409, 1370, 1306, 1258, 1237, 1111, 1076, 1050, 998, 910, 830, 761, 736, 700cm−1.

reactant | 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl methanesulfonate | 0.17 mmol, 0.11 g | CS(=O)(=O)OCCC1=C(C=C(C2=CC=CC=C12)OCC1=CC=CC=C1)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C32H32N2O8S
reactant | LiCl | 6.94 mmol, 0.29 g | [Li+].[Cl-]
reactant | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[4-benzyloxy-2-(5,6,7-trimethoxyindole-2-carboxamido)naphthalen-1-yl]ethyl chloride | 75 mg, 81% | C(C1=CC=CC=C1)OC1=CC(=C(C2=CC=CC=C12)CCCl)NC(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C31H29ClN2O5
